US08283478B2
N-(benzo[b]thien-3-ylmethyl)-sulfamide (Compound #1)
Thianaphthene-3-carboxaldehyde (1.62 g, 10.0 mmol) was dissolved in anhydrous ethanol (50 mL). Sulfamide (4.0 g, 42 mmol) was added and the mixture was heated to reflux for 16 hours. The mixture was cooled to room temperature. Sodium borohydride (0.416 g, 11.0 mmol) was added and the mixture was stirred at room temperature for three hours. The reaction was diluted with water (50 mL) and extracted with chloroform (3×75 mL). The extracts were concentrated and chromatographed (5% methanol in DCM) to yield the title compound as a white solid.

reactant | Thianaphthene-3-carboxaldehyde | 10.0 mmol, 1.62 g | C1=CC=C2C(=C1)C(=CS2)C=O | C9H6OS
reactant | Sulfamide | 42 mmol, 4.0 g | S(=O)(=O)(N)N | H4N2O2S
reactant | Sodium borohydride | 11.0 mmol, 0.416 g | [BH4-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
product | N-(benzo[b]thien-3-ylmethyl)-sulfamide | S1C2=C(C(=C1)CNS(=O)(=O)N)C=CC=C2 | C9H10N2O2S2
